US05250517
A mixture of 95 mg of (RS)-α-[(2-morpholinoethyl)carbamoylmethyl]-1-naphthalenepropionic acid, 100 mg of (S)-α-amino-N-[(1S,2S.4S)-1-(cyclohexylmethyl) 2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide and 97 mg of HBTU in acetonitrile was stirred at room temperature for 3.5 hours and then worked-up in the usual manner. The residue was chromatographed on silica gel with a 4: mixture of methylene chloride and methanol as the eluting agent, to obtain 60 mg of N-[(1S,2S.4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]-α-[3-[(2-morpholinoethyl)carbamoyl]-2-(1-naphthylmethyl)propionamido]imidazole-4-propionamide as a foam. MS: 743 (M+H)+.

reactant | (RS)-α-[(2-morpholinoethyl)carbamoylmethyl]-1-naphthalenepropionic acid | 95 mg | O1CCN(CC1)CCNC(=O)CC(C(=O)O)CC1=CC=CC2=CC=CC=C12 | C21H26N2O4
reactant | (S)-α-amino-N-[(1S,2S.4S)-1-(cyclohexylmethyl) 2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 100 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | HBTU | 97 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[(1S,2S.4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]-α-[3-[(2-morpholinoethyl)carbamoyl]-2-(1-naphthylmethyl)propionamido]imidazole-4-propionamide | 60 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(C(CC=1N=CNC1)NC(C(CC(NCCN1CCOCC1)=O)CC1=CC=CC2=CC=CC=C12)=O)=O | C43H62N6O5
